US07767685B2
To a magnetically stirred mixture of ethyl 5-methyl-1H-pyrazole-3-carboxylate (0.02 mol) and sodium ethoxide (0.22 mol) in ethanol (20 mL) is added the title A compound, 2-bromo-N-phenyl-acetamide (0.02 mol). The resulting suspension is stirred at RT for 3 h. After concentration in vacuo, EtOAc is added and the resulting solution is washed twice with water and dried over anhydrous Na2SO4. After filtration and concentration, the residue is purified by flash chromatography (ethyl acetate/hexane) to afford 5-methyl-1-phenylcarbamoyl-methyl-1H-pyrazole-3-carboxylic acid ethyl ester: m.p. 139-140° C.; 1H-NMR (DMSO-d6) δ 1.26-1.29 (t, 3H J=72 Hz), 2.28 (s, 3H), 4.23-4.25 (q, 2H J=72 Hz), δ 06 (s, 2H), δ 6.56 (s, 1H), 7.07 (m, 1H), 7.32 (m, 2H), 7.57 (m, 2H), 10.41 (s, 1H).

reactant | ethyl 5-methyl-1H-pyrazole-3-carboxylate | 0.02 mol | CC1=CC(=NN1)C(=O)OCC | C7H10N2O2
reactant | sodium ethoxide | 0.22 mol | [O-]CC.[Na+]
reactant | 2-bromo-N-phenyl-acetamide | 0.02 mol | BrCC(=O)NC1=CC=CC=C1 | C8H8BrNO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-methyl-1-phenylcarbamoyl-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C)C)C(NC1=CC=CC=C1)=O | C15H17N3O3
